Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old male with history of HTN, HLD, CAD, CHF 
(EF 55-60% in ___, Diabetes on insulin, hx of CVA, recently 
diagnosed pericardial effusion, p/w acute-onset altered mental 
status, unsteadiness, urinary incontinence today. 

Patient's son is the one who provided the history.  Patient's 
son states that patient was sleeping in this morning, and much 
less responsive. He reports that patient woke up with a blank 
stare.  Patient was also acutely noted to be incontinent of 
urine once.  His son reports that he was unable to walk around 
steadily, and was having difficulty hold onto the walls/walker 
to get around. Since then, he has been much less verbal with 
difficulty with speech. At home, he was also endorsing some 
L-sided abdominal and back pain. Son denies any falls or 
headstrike. Son denies any fevers/chills; He does endorse some 
wheezing but no chest pain, no 
nausea/vomiting/diarrhea/constipation, no new swelling or focal 
weakness anywhere aside from today's episode of generalized 
weakness and unsteadiness on his feet. Of note, patient is on 
Plavix. 

In the ED, initial vitals: 99.4 102 186/90 15 98%  
Labs were signficant for potassium of 5.3, but sample was 
hemolyzed. Creatinine was 3.7 from baseline 1.8. pO2 from venous 
O2 sats were 25. Patient triggered for shortness of breath. At 
the time he was shaking, tachycardic to 100s; 94% on RA; placed 
on NRB with improvement to 100%; rhonchi on L > R. Portable CXR 
showing increased fluid overload. Patient was given Vancomycin 
1g, Cefepime 1g, albuterol/ipratropium nebs, furosemide 40mg, 
tylenol ___, 1L NS.

On transfer, vitals were: 101.8 105 161/87 33 100% bipap   

On arrival to the MICU, patient was on BiPap.  Patient's son 
reports that his mental status is back to baseline.  He also 
reports that his grandson had a URI in the last week.  Patient's 
lasix dose was also decreased by half to 20mg last month.

 
Past Medical History:
- Stroke in ___
- Hypertension, medication changes as above.  His blood pressure
at home at been 150-180 systolic in ___, but not
recently measuring.  Had been ~ 153/82 on ___ before
hydralazine increased. 
- Hypercholesterolemia, on Statin
- Diabetes, on insulin (Lantus and Humalog SS)
- Orthostasis and possible convulsive syncope, as above
- Toes amputated on right owing to diabetes
- Cataracts - no surgery
- Diabetic neuropathy, on gabapentin 100/300

 
Social History:
___
Family History:
Possible stroke in parents, one definitely diabetic.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- T:100.8 BP:185/78 P:92 R: 18 O2: 100 on 2L NC  
GENERAL: Alert, oriented to name and place. No acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Bilateral crackles 
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, distended c/w obesity, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Amputated toes  
NEURO: Power ___ bilaterally in both lower and upper 
extremities. Dyspraxic when trying to follow commands with left 
upper extremity. Cn II-XII grossly intact.  

DISCHARGE PHYSICAL EXAM:
VS - 98.0 157/70 70 18 100% on RA
GENERAL: Alert, oriented to name and place. No acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, swelling of the 
eye noted  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Crackles appreciated occasionally in bilateral lung 
fields, good air movement, breathing comfortably without use of 
accessory muscles  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, distended c/w obesity, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Amputated toes, patient has an erythematous rash on the 
back which is not pruritic, not spreading  
NEURO: Power ___ bilaterally in both lower and upper 
extremities. Dyspraxic when trying to follow commands with left 
upper extremity. Cn II-XII grossly intact.  

 
Pertinent Results:
ADMISSION LABS:

___ 03:25PM   PLT COUNT-105*
___ 03:25PM   NEUTS-81.3* LYMPHS-10.7* MONOS-7.3 EOS-0.5 
BASOS-0.1
___ 03:25PM   WBC-8.7 RBC-3.25* HGB-9.8* HCT-28.1* MCV-87 
MCH-30.2 MCHC-34.9 RDW-15.2
___ 03:25PM   ALBUMIN-3.5 CALCIUM-9.2 PHOSPHATE-3.0 
MAGNESIUM-2.1
___ 03:25PM   CK-MB-1 cTropnT-<0.01 ___
___ 03:25PM   LIPASE-22
___ 03:25PM   ALT(SGPT)-16 AST(SGOT)-34 ALK PHOS-52 TOT 
BILI-0.5
___ 03:25PM   estGFR-Using this
___ 03:25PM   GLUCOSE-147* UREA N-47* CREAT-3.7*# 
SODIUM-139 POTASSIUM-5.3* CHLORIDE-105 TOTAL CO2-24 ANION GAP-15
___ 03:38PM   ___ TO  PTT-UNABLE TO  ___ 
TO 
___ 03:40PM   LACTATE-1.2
___ 04:45PM   ___ PTT-29.9 ___
___ 05:25PM URINE  RBC-4* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 05:25PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:25PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:25PM URINE  UHOLD-HOLD
___ 05:25PM URINE  HOURS-RANDOM UREA N-692 CREAT-121 
SODIUM-57 POTASSIUM-37 CHLORIDE-49
___ 07:35PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 08:04PM   O2 SAT-31
___ 08:04PM   ___ PO2-25* PCO2-51* PH-7.30* TOTAL 
CO2-26 BASE XS--2

___ CXR:  
Mild pulmonary edema, without pleural effusions
.  
___ CXR:  
Cardiomegaly with pulmonary edema, progressed since prior study 
dated ___ CT head:  
No acute intracranial abnormality  

___ CT abdomen:  
1. Small bilateral layering at nonhemorrhagic pleural effusions, 
right greater than left.  
2. Moderate diverticular disease of the sigmoid colon without 
evidence of diverticulitis.  
EKG: rate 97, sinus, 1st degree A-V block (PR 226ms) otherwise 
normal intervals, normal axis; ___ ST-T wave changes, 
non-specific; TWI in I and avL no longer noted (since comparison 
___  

___: Renal U/S:
IMPRESSION:  
5 mm nonobstructing left lower pole renal stone and a sub cm 
left lower pole simple renal cyst. Otherwise, normal renal 
ultrasound. 

 
Brief Hospital Course:
This is a ___ year old male with history of HTN, HLD, CAD, dCHF 
(EF 55-60% in ___, Diabetes on insulin, hx of CVA, recently 
diagnosed pericardial effusion, p/w acute-onset altered mental 
status, unsteadiness, urinary incontinence found to also be in 
respiratory distress.

#RESPIRATORY DISTRESS: Likely ___ flash pulmonary edema. Patient 
being resuscitated with fluid and was also very hypertensive in 
the ED to 180s systolic. From at___ notes, diuretics were also 
decreased to 20mg which could have predisposed him to having an 
episode of flash pulmonary edema. BNP on arrival was in the 
11000s favoring acute diastolic CHF exacerbation. Patient was 
placed on fluid restriction and diuresed with 40mg IV lasix. 
However patient was also febrile to 101 in the ED and has had hx 
of prior stroke, so there was some concern for aspiration. He 
was therefore covered broadly with vanc/cefepime/flagyl (flagyl 
added given concern for aspiration) but these antibiotics were 
discontinued after a few days given lack of clinical evidence of 
pneumonia. The patient's shortness of breath improved with 
diuresis alone and he never complained of cough, had an elevated 
WBC count, or was febrile after being admitted. An echo was 
performed which compared favorably with his prior echo in ___ 
with no changes in ejection fraction.

#ALTERED MENTAL STATUS: Unclear etiology. Patient does have hx 
of stroke but CT head was negative for  acute intracranial 
process.  Given urinary incontinence, gait instability, normal 
pressure hydrocephalus is also on differential but no prominence 
of ventricles on CT head. Infectious etiology also on 
differential given fevers in setting of AMS.  Patient could have 
also suffered a seizure given urinary incontinence although no 
prior hx of seizures.  Infectious work up sent off which came 
back negative.  Patient was back to baseline upon arrival to the 
ICU and his mental status was stable and at his baseline 
throughout admission. The most likely etiology of his acute 
mental status decompensation is pulmonary edema and resulting 
respiratory distress.  

#Acute on chronic kidney disease: Patient had an increase from 
his baseline creatinine of 3.3 to 4.1 which trended back down to 
3.7. CKD thought to be due to worsening DM. Most likely etiology 
is pre-renal due to to infection/dehydration. His creatinine was 
trended daily and a renal ultrasound was negative for 
obstruction or hydronephrosis.  

#CHF: Patient has hx of dCHF. Echo on this admission reveals 
preserved EF without new regional wall motion abnormalities when 
compared with that from ___. Fluid restriction to 1.5L and 
2g Na diet were employed with daily weights and strict ins and 
outs recorded. His metoprolol 100 qdaily was increased to 150 
qdaily for improved BP control. 

#CAD: Patient's last cath was in ___ which was negative. ___ 
cath showed moderate single vessel disease and was advised to be 
medically managed. His home aspirin, statin, and metprolol were 
continued while he was hospitalized.

#HX OF STROKE: Patient has suffered stroke in the past and has 
been on dual antiplatelet therapy since then. His home plavix 
and aspirin were continued. 

#HYPERTENSION: Hypertensive to 180s systolic on admission. Goal 
BP for this elderly gentleman is 160s systolic, will attempt to 
control BP in light of flash pulmonary edema on admission. His 
home hydralazine and metoprolol were continued, and his 
metporolol dose was increased to provide better control of his 
blood pressures at home.  
  
#DM - Stable, patient's home lantus regimen was continued with 
additional insulin sliding scale while hospitalized.

TRANSITIONAL ISSUES: 
-The patient had a mild erythematous rash on his back which he 
did not find bothersome and is most likely due to a heat rash vs 
mild allergic reaction. He was treated with ceterizine and was 
asymptomatic. Please ensure this rash clears.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Gabapentin 100 mg PO DAILY 
6. Gabapentin 300 mg PO HS 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
8. Metoprolol Succinate XL 100 mg PO DAILY 
9. HydrALAzine 25 mg PO TID 
10. Glargine 20 Units Breakfast
11. Calcitriol 0.25 mcg PO EVERY OTHER DAY 3x/weekly 
12. Furosemide 20 mg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
15. Acetaminophen 650 mg PO Q12H:PRN pain, fever 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q12H:PRN pain, fever 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Atorvastatin 40 mg PO DAILY 
5. Calcitriol 0.25 mcg PO EVERY OTHER DAY 3x/weekly 
6. Clopidogrel 75 mg PO DAILY 
7. Gabapentin 100 mg PO DAILY 
8. Gabapentin 300 mg PO HS 
9. HydrALAzine 25 mg PO TID 
10. Glargine 20 Units Breakfast
11. Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate 50 mg 3 tablet(s) by mouth qdaily Disp 
#*90 Tablet Refills:*0
12. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
13. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
14. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Acute diastolic congestive heart failure 
exacerbation

Secondary Diagnosis: Diabetes mellitus, coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___. You were admitted because you were having 
shortness of breath and fevers. We determined that your 
shortness of breath was likely due to an acute exacerbation of 
your heart failure and haveing too much fluid in your lungs. We 
gave you a medication to help you remove the fluid from your 
lungs. Your kidney function was also slightly worse than usual 
while you were admitted. We closely followed it while you were 
hospitalized and it returned to what is normal for you. We also 
noticed that your blood pressure was somewhat high while you 
were here, so we increased one of your blood pressure 
medications (metoprolol). This is noted on the medication list 
you will be given at discharge.

Sincerely,

Your ___ Team
 
Followup Instructions:
___